US04282365
Step A: Methyl 6,11-Dihydro-11-methylsulfonyldibenz[b,e]oxepin-2-carboxylate
Reflux 1.4 gm. of methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylate in 6 cc. of thionyl chloride for 10 minutes. Strip away excess thionyl chloride by evaporation and dissolve the chloro intermediate so produced in 14 cc. of N,N-dimethylformamide. Add 582 mg. of methanesulfinic acid sodium salt (10% excess). Stir at room temperature for 5 days. Dilute with water and separate the solids by filtration. Crystallize from 15 cc. of benzene to obtain the title product (yield 1.18 gm. 68.6%).

reactant | methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylate | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H14O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | methanesulfinic acid sodium salt | [Na+].CS(=O)[O-]
solvent | water | O | H2O
product | Methyl 6,11-Dihydro-11-methylsulfonyldibenz[b,e]oxepin-2-carboxylate | yield 1.18 gm, 68.6% | CS(=O)(=O)C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H16O5S
